US07368578B2
A mixture of ethyl (4-{4-[(4-[({4-[(E)-2-(1-ethyl-1H-imidazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl)phenyl)acetate (485 mg), 8N aqueous sodium hydroxide solution (1 mL), tetrahydrofuran (5 mL) and ethanol (5 mL) was heated under reflux for 30 min. After cooling, to the reaction mixture was added 1N hydrochloric acid (8 mL) and the mixture was left standing overnight. The precipitated crystals were collected by filtration and recrystallized from methanol-diethyl ether to give (4-{4-[(4-[({4-[(E)-2-(1-ethyl-1H-imidazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetic acid as colorless crystals (472 mg, yield 100%). melting point: 194-196° C.

reactant | ethyl (4-{4-[(4-[({4-[(E)-2-(1-ethyl-1H-imidazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl)phenyl)acetate | 485 mg | C(C)N1C=NC(=C1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C39H39N5O6
reactant | sodium hydroxide | 8N, 1 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 8 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (4-{4-[(4-[({4-[(E)-2-(1-ethyl-1H-imidazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetic acid | 472 mg, yield 100% | C(C)N1C=NC(=C1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)O)C=C1)OC | C37H35N5O6
